US04057638
Two and one half parts by weight of methoxycarbonyl isocyanate was added gradually with stirring to a solution of 4 parts by weight of 2-amino-4-methylbenzothiazole dissolved in 250 parts by weight of methylene chloride. The reaction mixture was stirred at room temperature for 12 hours. The solution was concentrated to one fifth the original volume and the solid isolated by filtration to give a 37% yield of methyl 4-(4-methylbenzothiazol-2-yl)allophanate having a melting point of 272°-280° with decomposition.

reactant | methoxycarbonyl isocyanate | COC(=O)N=C=O | C3H3NO3
reactant | 2-amino-4-methylbenzothiazole | NC=1SC2=C(N1)C(=CC=C2)C | C8H8N2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 4-(4-methylbenzothiazol-2-yl)allophanate | 37% yield | CC1=CC=CC2=C1N=C(S2)NC(NC(=O)OC)=O | C11H11N3O3S
